US05789408
2-Chloro-3-pyridineacetic Acid Ethyl Ester
A mixture of 1.56 g (8.6 mol) of 3-pyridineacetic acid ethyl ester 1-oxide (for preparation, see A. R. Katritzky, J. Chem. Soc., 1956, 2404) and 15 ml of phosphorous oxychloride was heated to 80° C. for 3 hours. After cooling, the solvent was evaporated and the residue was poured onto ice water and solid sodium bicarbonate was added until the pH was basic. The organic layer was extracted with ethyl acetate and the combined extracts were dried over sodium sulfate and evaporated to an oil which was purified by flash chromatography with an ethyl acetate-hexane (1:4-1:1) eluant. The fractions containing the less polar isomer (Rf 0.3, ethyl acetate-hexane (3:7)) were combined and evaporated to yield 584 mg (50%) of the title compound of this preparation as an oil. 1H NMR (CDCl3): δ 1.22 (3H, t, J=7), 3.76 (2H, s), 4.15 (2H, q, J=7), 7.11-7.21 (2H, m), 8.25-8.31 (1H, m).

reactant | 3-pyridineacetic acid ethyl ester 1-oxide | 8.6 mol, 1.56 g | C(C)OC(CC=1C=[N+](C=CC1)[O-])=O | C9H11NO3
reactant | phosphorous oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-3-pyridineacetic Acid Ethyl Ester | 584 mg, 50% | C(C)OC(CC=1C(=NC=CC1)Cl)=O | C9H10ClNO2
